US05965490
14. Preparation of 2-(N-Trimethylsilylamino)-8-chloro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine
A mixture of 12.7 g (85 mmol) of sodium iodide in 425 mL of dry acetonitrile was prepared under nitrogen in a predried 2 L flask and to this mixture 9.25 g (10.8 mL, 85 mmol) of chlorotrimethylsilane was added by means of a syringe at ambient temperature with stirring. After 10 min, 17.0 g (85 mmol) of 2-amino-8-chloro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine and 8.62 g (11.9 mL, 85 mmol) of triethylamine were added with stirring. The mixture was allowed to react for 12 hours at ambient temperature with stirring and was then diluted with 500 mL of dry diethyl ether. The salts that precipitated were removed by filtration on a dry scintered glass filter and the filtrate was concentrated by evaporation under reduced pressure. The residue was diluted with another 500 mL of dry diethyl ether the salt removal procedure was repeated. The title compound was obtained as the solid residue and amounted to 19.5 g (84 percent of theory).

reactant | sodium iodide | 85 mmol, 12.7 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 85 mmol, 10.8 mL, 9.25 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-amino-8-chloro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine | 85 mmol, 17.0 g | NC1=NN2C(=NC=C(C2=N1)Cl)OC | C6H6ClN5O
reactant | triethylamine | 85 mmol, 11.9 mL, 8.62 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 425 mL | C(C)#N | C2H3N
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 2-(N-Trimethylsilylamino)-8-chloro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine | C[Si](NC1=NN2C(=NC=C(C2=N1)Cl)OC)(C)C | C9H14ClN5OSi
